US08022223B2
N-(4-methylthiazol-2-yl)-3-phenoxy-5-(phenylthio)pyridin-2-amine hydrochloride
5-Chloro-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine (0.150 g, 0.472 mmol) was placed in THF (30 mL) and cooled to −78° C. MeLi (0.369 mL, 0.590 mmol) was slowly added and the reaction mixture was stirred for 10 minutes. Butyllithium (0.236 mL, 0.590 mmol) was added and the reaction mixture was stirred for 30 minutes. 1,2-Diphenyldisulfane (0.103 g, 0.472 mmol) was added and the reaction mixture was warmed to room temperature, then stirred for 15 minutes. The reaction mixture was quenched with ammonium chloride and extracted with CH2Cl2. The organic layer was dried, filtered, and concentrated. The residue was purified by silica gel chromatography (10-20% EtOAc in hexanes), and then by reverse phase chromatography to give the title compound (0.0572 g, 28.3% yield) after salt formation. 1H NMR (d6-DMSO) δ 10.94 (bs, 1H), 8.15 (d, 1H), 7.43 (t, 2H), 7.32 (d, 1H), 7.20 (t, 1H), 7.19 (d, 2H), 6.60 (s, 1H), 2.23 (s, 3H); Mass spectrum (apci) m/z=392.2 (M+H—HCl).

reactant | 5-Chloro-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine | 0.472 mmol, 0.150 g | ClC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | C15H12ClN3OS
reactant | MeLi | 0.590 mmol, 0.369 mL | [Li]C
reactant | Butyllithium | 0.590 mmol, 0.236 mL | C(CCC)[Li]
reactant | 1,2-Diphenyldisulfane | 0.472 mmol, 0.103 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(4-methylthiazol-2-yl)-3-phenoxy-5-(phenylthio)pyridin-2-amine hydrochloride | 0.0572 g, 28.3% yield | Cl.CC=1N=C(SC1)NC1=NC=C(C=C1OC1=CC=CC=C1)SC1=CC=CC=C1 | InChI=1S/C21H17N3OS2.ClH/c1-15-14-26-21(23-15)24-20-19(25-16-8-4-2-5-9-16)12-18(13-22-20)27-17-10-6-3-7-11-17;/h2-14H,1H3,(H,22,23,24);1H
